US08034812B2
Production of 2-cyclopropyl-N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide
To a solution of cyclopropylacetic acid (441 mg, 4.4 mmol) in tetrahydrofuran (8.0 mL) were added N,N-dimethylformamide (1 drop) and thionyl chloride (0.32 mL, 4.4 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and dissolved in N,N-dimethylacetamide (2.0 mL). To a solution of 6-iodoimidazo[1,2-b]pyridazin-2-amine (1.04 g, 4.0 mmol) in N,N-dimethylacetamide (6.0 mL) was added dropwise the above-mentioned solution under ice-cooling. The mixture was stirred at room temperature for 2 hr. Under ice-cooling, aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by basic silica gel column chromatography (ethyl acetate/hexane=80/20→100/0), and recrystallized from ethyl acetate to give the title compound (982 mg, 72%) as pale-green crystals.

reactant | cyclopropylacetic acid | 4.4 mmol, 441 mg | C1(CC1)CC(=O)O | C5H8O2
reactant | thionyl chloride | 4.4 mmol, 0.32 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 6-iodoimidazo[1,2-b]pyridazin-2-amine | 4.0 mmol, 1.04 g | IC=1C=CC=2N(N1)C=C(N2)N | C6H5IN4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 8.0 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 6.0 mL | CN(C(C)=O)C | C4H9NO
product | 2-cyclopropyl-N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide | 982 mg, 72% | C1(CC1)CC(=O)NC=1N=C2N(N=C(C=C2)I)C1 | C11H11IN4O
